US08865704B2
3-[trans-4-(4-Acetyl-piperazine-1-carbonyl)-cyclohexylmethyl]-5-methoxy-1-methyl-1,3-dihydro-benzoimidazol-2-one
5-Methoxy-1-methyl-3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1,3-dihydro-benzoimidazol-2-one (85 mg, 0.22 mmol) was dissolved in anhydrous DCM (4 ml). Triethyl amine (0.12 ml, 0.66 mmol) and acetyl chloride (0.02 ml, 0.26 mmol) were added and the mixture was stirred at room temperature overnight. The solution was washed with saturated NaHCO3 the organic phase was concentrated and the crude product purified on silica column using EtOAc as eluent to give the titled compound (60 mg, 64%).

reactant | 5-Methoxy-1-methyl-3-[trans-4-(piperazine-1-carbonyl)-cyclohexylmethyl]-1,3-dihydro-benzoimidazol-2-one | 0.22 mmol, 85 mg | COC1=CC2=C(N(C(N2C[C@@H]2CC[C@H](CC2)C(=O)N2CCNCC2)=O)C)C=C1 | C21H30N4O3
reactant | Triethyl amine | 0.66 mmol, 0.12 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.26 mmol, 0.02 ml | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | 3-[trans-4-(4-Acetyl-piperazine-1-carbonyl)-cyclohexylmethyl]-5-methoxy-1-methyl-1,3-dihydro-benzoimidazol-2-one | 60 mg, 64% | C(C)(=O)N1CCN(CC1)C(=O)[C@@H]1CC[C@H](CC1)CN1C(N(C2=C1C=C(C=C2)OC)C)=O | C23H32N4O4
